Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Sacral Pain, Fevers
 
Major Surgical or Invasive Procedure:
___ ischial bone biopsy 
 
History of Present Illness:
Mr ___ is a ___ y/o M with PMH significant for T6 cord
injury with resultant ___ paralysis, who presents as a transfer
from OSH for surgical evaluation of stage IV sacral ulcer with
underlying osteomyelitis.  

He has had a sacral ulcer for the past 9 months which has been
followed as an outpatient.  In ___ of this year he went to ___
for debridement was on IV antibiotics at a rehab facility for 
___
weeks.  He subsequently had a wound VAC in place for the last 
___
months.  He does note that the wound started healing in ___
and he subsequently saw a plastic surgeon for consideration for 
a
flap.  As part of his workup he had an MRI performed last week
which demonstrated osteomyelitis.  He initially presented to a
hospital in ___, where he received a dose of IV
Vancomycin and ceftriaxone and transferred him to ___ for
surgical evaluation.  

On arrival to the ED VS were 99.5 78 117/70 20 98% RA. Basic 
labs
and cultures were obtained. He was given oxycodone and CefePIME.
Surgery was consulted and believed no debridement was necessary
of his ulcer. He was then admitted to the medicine service for
further workup of osteomyelitis. 
  
On the floor patient notes fever, chills in afternoon for many
months as well as ongoing sacral pain.

 
Past Medical History:
- T6 Spinal Cord Injury ___, with paraplegia, chronic foley,
manual disimpactions)
- Sacral Ulcer 
- Beta thalassemia
 
Social History:
___
Family History:
Noncontributory to presenting complaint
 
Physical Exam:
Admission:
___ 1139 Temp: 98.1 PO BP: 114/71 R Lying HR: 82 RR: 18 O2
sat: 100% O2 delivery: Ra 
GEN: Well appearing, in no acute distress
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD.
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. 
SKIN: No rashes. Sacral ulcer on left, 4cm, down to bone, beefy
red granulation tissue present, no purulence.
NEURO: AOx3. Paraplegia, with ___ strength in UE and normal CN. 

Discharge Exam:
T 97.9 PO BP 108 / 67 HR 83 RR 18 ___ 99 Ra 
Gen: Well appearing, AOX3
CV: RRR, no r/m/g
Pulm: CTAB 
Abdomen: soft NTND, no organomegaly
Skin: Left ischium with decubitus ulcer without bone exposed, 
clean base without any evidence of infection 
 
Pertinent Results:
Admission Labs:

___ 04:30AM BLOOD WBC-12.3* RBC-5.17 Hgb-9.5* Hct-32.6* 
MCV-63* MCH-18.4* MCHC-29.1* RDW-17.1* RDWSD-37.1 Plt ___
___ 04:30AM BLOOD Neuts-72.3* Lymphs-14.5* Monos-9.4 
Eos-2.7 Baso-0.3 Im ___ AbsNeut-8.90* AbsLymp-1.79 
AbsMono-1.16* AbsEos-0.33 AbsBaso-0.04
___ 04:30AM BLOOD Glucose-119* UreaN-16 Creat-0.5 Na-140 
K-4.2 Cl-102 HCO3-25 AnGap-13
___ 04:30AM BLOOD hsCRP-192.7

Micro:
Urine culture:
   URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA. 
         >100,000 CFU/mL OF TWO COLONIAL MORPHOLOGIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

___  Blood culture x2: NGTD

___ 3:15 pm BIOPSY      ISCHIAL BIOPSY LEFT. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

Discharge labs:

___ 05:10AM BLOOD WBC-6.8 RBC-4.77 Hgb-8.9* Hct-30.2* 
MCV-63* MCH-18.7* MCHC-29.5* RDW-17.1* RDWSD-37.1 Plt ___
___ 05:10AM BLOOD Glucose-87 UreaN-17 Creat-0.4* Na-140 
K-4.9 Cl-102 HCO3-30 AnGap-8*
___ 05:10AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.5
___ 09:15AM BLOOD CRP-141.7*
___ ESR 53
 
Brief Hospital Course:
Mr ___ is a ___ y/o M with PMH significant for T6 cord 
injury with resultant ___ paralysis, who presents as a transfer 
from OSH for surgical evaluation of stage IV sacral ulcer with 
underlying osteomyelitis.  

ACTIVE ISSUES:
==============
# Osteomyelitis:  
# Ischial decubitus Ulcer
Patient completed 6 weeks of Ctx/flagyl over ___ for 
E.coli, MSSA osteomyelitis. Course was complicated by 
non-healing clean sacral ulcer despite wound vac. MRI prior to 
flap procedure concerning for osteomyelitis at OSH though likely 
represent inflammatory changes post treatment. Appears to have 
bone exposure on MRI though on exam and based on ortho bone 
biopsy, there is no bone exposure. ID consulted but given 
patient without leukocytosis, fever or other clinical signs of 
infection, he was not treated with antibiotics. Bone biopsy 
obtained on ___ without growth to date. Of note, patient 
had cultures at ___ in ___ without growth either. ID 
consulted here with recommendation to hold off on antibiotics: 
"There is no role for antibiotics in isolation here. If there is 
a
goal to try and heal this ulcer, it should be part of a 
multidisciplinary approach- plastics to flap, gen surgery for 
diverting ostomy, and ID for antibiotics to decrease the 
colonization of the area to help promote flap success. He also
has excellent self care and if he is truly able to keep his 
wound clean, then potentially colostomy would not be needed." 
Plastic surgery consulted but patient preferred to follow up 
with own surgeon in ___. 

#Constipation
Given parapalegia, requires disimpaction for bowel movements.
Avoiding laxatives as patient has had unexpected diarrhea with
this and given presence of sacral wound, would avoid increase
soiling in the area. 
- Avoid laxatives
- Dissimpaction PRN 

TRANSITIONAL ISSUES:
====================
[ ] Follow up with plastic surgery for evaluation of wound 
closure
[] Consider Infectious disease follow up outpatient for further 
management as needed
[] Bone biopsy from ___ without growth 
[] Continue daily wet to dry dressing 
[] Strict pressure offloading L ischium; if able, order pressure
offloading specific air mattress bed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN Pain - Moderate 

2. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
Osteomyelitis
Sacral Decubitus Ulcer

Secondary
T6 spinal cord transection
Hemiparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Mr ___,
  
It was a pleasure caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because of a concern for an 
infection in the bone underneath your sacral wound 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had infectious disease, and orthopedics evaluate your 
wound
- Your wound was clean and your bone biopsy did not show any 
growth concerning for an active infection
- You were evaluated by plastic surgery for a flap but you 
decided to pursue this closer to home 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Please establish care with an infectious disease doctor and 
follow up with plastic surgery for continued evaluation of wound 
closure 

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___